US07125896B2
b) 1-[2-(2-Bromophenoxy)ethyl]-4-piperidinol
The title compound was prepared from 1-bromo-2-(2-chloroethoxy)benzene and 4-hydroxypiperidine in a similar manner to Example 149 (b).

reactant | 1-bromo-2-(2-chloroethoxy)benzene | BrC1=C(C=CC=C1)OCCCl | C8H8BrClO
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 1-[2-(2-Bromophenoxy)ethyl]-4-piperidinol | BrC1=C(OCCN2CCC(CC2)O)C=CC=C1 | C13H18BrNO2
